data/mechanism_extracts/Angew/10.1002_anie.202207059_sup_1.json
{"doi": "10.1002_anie.202207059_sup_1", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical iodo-carbocyclization of dimethyl 2-allylmalonate with ethynylbenzene to give an iodo-substituted cyclopentene bearing a phenyl group, mediated by an electrogenerated iodine species in a divided cell.", "mechanism_family": ["mediator_anodic", "radical_anodic"], "electrochemical_role": "Anodic oxidation of iodide (from NaI or NIS) to an electrophilic/radical iodine species that initiates radical addition to the alkyne; the cathode reduces protons/HOAc, not the iodomalonate intermediate (as shown by the divided-cell control with NIS giving no product).", "key_intermediates": [{"name": "α-carbon radical of dimethyl 2-allylmalonate (malonyl radical)", "smiles": null, "role": "reactive"}, {"name": "vinyl radical from iodine-radical addition to phenylacetylene", "smiles": null, "role": "reactive"}, {"name": "iodomalonate (putative)", "smiles": null, "role": "off_pathway"}, {"name": "cyclopentene product bearing CH2I and Ph", "smiles": "COC(=O)C1(C(=O)OC)CC(CI)C(=C1)c1ccccc1", "role": "reactive"}], "electron_flow": "Anode oxidizes iodide to I• (or I+), which adds to phenylacetylene to generate a vinyl radical; intramolecular/intermolecular radical cyclization with the allylmalonate forms a carbocyclic C-radical that abstracts/couples with iodine to give the iodo-cyclopentene; cathode reduces HOAc/protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Added as control to test radical intermediacy in the divided-cell reaction."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Added as control to test radical intermediacy."}, {"name": "NIS (as putative iodomalonate precursor in divided cell)", "smiles": "O=C1CCC(=O)N1I", "purpose": "intermediate_trap", "observation": "In divided cell with NIS instead of NaI, no target product was detected, indicating reduction of an iodomalonate intermediate at the cathode is NOT on the productive pathway."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Divided-cell experiment with NIS gave no product (n.d.), while the analogous divided-cell run with NaI gave 14% yield, supporting an anodic iodide-oxidation pathway rather than cathodic reduction of an iodomalonate. Page also documents the H-type divided cell apparatus (Figure S1)."}
